US07244843B2
Step B. Preparation N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-trifluormethylsulfonyloxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one (100 mg, 0.26 mmol) and 2,6-lutidine (139 mg, 1.3 mmol) in dry CH2Cl2 (3 mL) at 0° C. was added trifluormethanesulfonic anhydride (109 mg, 0.39 mmol). The reaction was stirred for 30 min and then quenched with methanol. The reaction was conc. in vacuo to a brown oil. The oil was purified by flash chromatography (SiO2, 0–50% EtOAc in hexanes) to yield 101 mg of the desired product as a white solid. MS (ESI) 521 (M+H).

reactant | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 0.26 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=C(C=C23)O)OC(F)(F)F)=O)CC1 | C17H19F3N2O5
reactant | 2,6-lutidine | 1.3 mmol, 139 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluormethanesulfonic anhydride | 0.39 mmol, 109 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-trifluormethylsulfonyloxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 101 mg | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=C(C=C23)OS(=O)(=O)C(F)(F)F)OC(F)(F)F)=O)CC1 | C18H18F6N2O7S
